US07902361B2
5-(3-Dimethylamino-acryloyl)-4-methyl-3H-thiazol-2-one
5-Acetyl-4-methyl-3H-thiazol-2-one (0.5 g, 3.18 mmol) and tert-butoxy-bis(dimethylamino)methane (Bredereck's reagent; 2.226 mL, 0.477 mmol) were combined and heated at 80° C. for 4 h. Removal of the excess solvent under reduced pressure gave a dark residue. Treatment of this residue with EtOAc afforded the title compound as a solid product, which was collected by filtration (0.074 g, 11%). Anal. RP-HPLC: tR 10.5 min (0-60% MeCN over 20 min). 1H-NMR (DMSO-d6): δ2.33 (3H, s, CH3), 2.70 (3H, s, NCH3), 3.09 (3H, s, NCH3), 5.07 (1H, d, CH, J=12.0), 7.55 (1H, d, J=12.0, CH), 11.23 (1H, s, NH). MS (ESI+) m/z 213.44 (M+H)+.

reactant | 5-Acetyl-4-methyl-3H-thiazol-2-one | 3.18 mmol, 0.5 g | C(C)(=O)C1=C(NC(S1)=O)C | C6H7NO2S
reactant | tert-butoxy-bis(dimethylamino)methane | 0.477 mmol, 2.226 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3-Dimethylamino-acryloyl)-4-methyl-3H-thiazol-2-one | CN(C=CC(=O)C1=C(NC(S1)=O)C)C | C9H12N2O2S
